US08084484B2
b) Ethyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-7-yl)acetate
A mixture of Ethyl 2-(3,4-dihydroxyphenyl)acetate (1.11 g, 5.66 mmol) and 1,2-dibromoethane (1.07 g, 5.69 mmol) in DMF (5 mL) was added cesium carbonate (3.71 g, 11.4 mmol). The reaction mixture was stirred for 2 hrs at 80° C. then cooled to room temperature. The mixture was diluted with H2O and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:4˜1:2) as eluant.

reactant | Ethyl 2-(3,4-dihydroxyphenyl)acetate | 5.66 mmol, 1.11 g | OC=1C=C(C=CC1O)CC(=O)OCC | C10H12O4
reactant | 1,2-dibromoethane | 5.69 mmol, 1.07 g | BrCCBr | C2H4Br2
reactant | cesium carbonate | 11.4 mmol, 3.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Ethyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-7-yl)acetate | O1C2=C(OCC1)C=CC(=C2)CC(=O)OCC | C12H14O4
